US07211573B2
0.10 mg (0.28 mmol) [(6R,7S)-2-Fluoro-6-methyl-8-oxo-9-(2-oxo-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester in 4 ml methanol was reacted with 0.036 ml (0.40 mmol) morpholine, 0.07 ml acetic acid and 0.03 g sodium cyanoborohydride at room temperature. Chromatography on silicagel with ethylacetate/heptane 1:1 yielded 0.09 g (73%) [(6R,7S)-2-fluoro-6-methyl-9-(2-morpholin-4-yl-ethyl)-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester, MS m/e (%): 424.3 (M+H+, 100).

reactant | [(6R,7S)-2-Fluoro-6-methyl-8-oxo-9-(2-oxo-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester | 0.28 mmol, 0.10 mg | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(N(C1=O)CC=O)C=C(C=C2)F)C)=O | C17H21FN2O5
reactant | morpholine | 0.40 mmol, 0.036 ml | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.03 g | C(#N)[BH3-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | ethylacetate heptane | C(C)OC(C)=O.CCCCCCC
product | [(6R,7S)-2-fluoro-6-methyl-9-(2-morpholin-4-yl-ethyl)-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester | 0.09 g, 73% | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(N(C1=O)CCN1CCOCC1)C=C(C=C2)F)C)=O | C21H30FN3O5
